### PR TITLE
[Merged by Bors] - feat(Coalgebra): mixin for cocommutative coalgebras

### PR DESCRIPTION
**Pull request by YaelDillies**
A coalgebra `A` is cocommutative if its comultiplication `δ : A → A ⊗ A` commutes with the swapping `β : A ⊗ A ≃ A ⊗ A` of the factors in the tensor product.

This is made a Prop-valued mixin because eg matrices are a non-cocommutative bialgebra.

From Toric

Co-authored-by: Michał Mrugała <kiolterino@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 1]
```diff
@@ -160,6 +160,19 @@ theorem sum_map_tmul_tmul_eq {B : Type*} [AddCommMonoid B] [Module R B]
     (TensorProduct.map (g : A →ₗ[R] B) (h : A →ₗ[R] B)) at this
   simp_all only [map_sum, TensorProduct.map_tmul, LinearMap.coe_coe]
 
+local notation "δ" => comul
+
+variable (R A) in
+/-- A coalgebra `A` is cocommutative if its comultiplication `δ : A → A ⊗ A` commutes with the
+swapping `β : A ⊗ A ≃ A ⊗ A` of the factors in the tensor product. -/
+class IsCocomm where
+  comul_comm' : (TensorProduct.comm R A A).comp δ = δ
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/Basic.lean:169]: Why prime the name?

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 2]
```diff
@@ -181,6 +192,8 @@ theorem comul_apply (r : R) : comul r = 1 ⊗ₜ[R] r := rfl
 @[simp]
 theorem counit_apply (r : R) : counit r = r := rfl
 
+instance : IsCocomm R R where comul_comm' := by ext; simp
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/Basic.lean:195]: Are there any other interesting instances you could add in this PR?

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/Basic.lean:195]: How easy is the Finsupp instance to define in this PR? I assume it lifts for free to monoidalgebra via defeq abuse?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/Coalgebra/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Basic.lean]: Easy

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 3]
```diff
@@ -136,6 +136,11 @@ instance instCoalgebra : Coalgebra R (A ⊗[R] B) where
     · dsimp
       simp only [one_smul]
 
+instance instIsCocomm [IsCocomm R A] [IsCocomm R B] : IsCocomm R (A ⊗[R] B) where
+  comm_comp_comul := by
+    ext : 1 -- wrong ext lemma!
+    sorry
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean:142]: Eric, any idea how to make `ext` use the correct lemma here?

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:142]: Yes the one you want is not tagged ext, so `attribute [local ext]` it (and/or make a PR that re-tags it, since I think it was a lean3 performance decision)

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean]: I don't really understand your request here, but I proved it for you.

**Comment by eric-wieser** [comment]
So far it seems that every co-algebra in mathlib is co-commutative; can you justify this typeclass with an example in the PR description of something that _doesn't_ satisfy it?

**Comment by YaelDillies** [comment]
No I cannot, so I justified it with an explanation instead.

**Comment by YaelDillies** [comment]
Ah yes, Michal claims just now that they form a non-cocommutative bialgebra

**Comment by eric-wieser** [comment]
A PR for that would be great, but a comment in the description explaining the new typeclass would _not_ be satisfied in that case is sufficient.

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 4]
```diff
@@ -317,6 +338,13 @@ instance instCoalgebra : Coalgebra R (Π₀ i, A i) where
       ← map_comp_lTensor, comp_assoc, ← coassoc, ← comp_assoc comul, ← comp_assoc,
         TensorProduct.map_map_comp_assoc_eq]
 
+instance instIsCocomm [∀ i, IsCocomm R (A i)] : IsCocomm R (Π₀ i, A i) where
+  comm_comp_comul := by
+    ext i : 1
+    simp [comul_comp_lsingle, LinearMap.comp_assoc]
+    simp [← LinearMap.comp_assoc, ← TensorProduct.map_comp_comm_eq]
+    simp [LinearMap.comp_assoc]
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Coalgebra/Basic.lean:346]: `simp` is a fancy tactic, so a bunch of `simp`s after each other is fine.

The correct fix here is to acquire a version of `reassoc` for `LinearMap`. Then I wouldn't have to reassociate back and forth.

I don't think we should obscure the proof in the meantime in the name of not having `simp` follow `simp`

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
